US04167508
4.51 g (15 mmol) of 3-(4-hydroxyphenyl)-propionic acid 4-nitrobenzyl ester in 200 ml of methylene chloride are carefully treated at 0° C. with 100 ml of isobutene and 0.5 ml of concentrated sulphuric acid. The mixture is stored at room temperature for 72 hours and then poured into 100 ml of 0.4-N potassium hydrogen carbonate solution. The organic solvent is almost completely evaporated in vacuo and the product extracted several times with diethyl ether. The combined organic phases are washed with 0.5-N sodium hydroxide and water, dried over sodium sulphate and then evaporated. The solid residue is dissolved in petroleum ether, insoluble material is filtered off and the filtrate evaporated to dryness in vacuo. There is obtained 3-(4-tert.butoxyphenyl)-propionic acid 4-nitrobenzyl ester in the form of a crystalline residue of melting point 30°-32° C. The product is chromatographically pure in cyclohexane/chloroform/acetic acid (45:45:10). The yield amounts to 4.5 g (83% of theory).

reactant | 3-(4-hydroxyphenyl)-propionic acid 4-nitrobenzyl ester | 15 mmol, 4.51 g | [N+](=O)([O-])C1=CC=C(COC(CCC2=CC=C(C=C2)O)=O)C=C1 | C16H15NO5
reactant | isobutene | 100 ml | C=C(C)C | C4H8
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-tert.butoxyphenyl)-propionic acid 4-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(CCC2=CC=C(C=C2)OC(C)(C)C)=O)C=C1 | C20H23NO5
